US05703224
Step 2 1-[N-(2-methyl-3-methoxypropenoyl)ureido]-2,5-anhydro-4,6-di-O-benzyl-1,3-dideoxy-D-allitol
In 32.2 ml of methylene chloride was dissolved 2.3 g of 1-ureido-2,5-anhydro-4,6-di-O-benzyl-1,3-dideoxy-D-allitol followed by addit ion of 9.2 ml of pyridine. Then, 1.67 g of 2-methyl-3-methoxypropenoyl chloride was added and the mixture was stirred at room temperature overnight. This reaction mixture was poured in 5% aqueous solution of monopotassium phosphate followed by extraction with ethyl acetate. The organic layer was washed with 5% aqueous monopotassium phosphate solut ion thrice, saturated aqueous sodium hydrogen carbonate solution once, and saturated aqueous sodium chloride solution once in turn, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated and the residue was purified by silica gel column chromatography (chloroform→1% methanol/chloroform) to provide 2.3 g of the desirable compound as pale-yellow oily substance.

reactant | 1-ureido-2,5-anhydro-4,6-di-O-benzyl-1,3-dideoxy-D-allitol | 2.3 g | N(C(=O)N)C[C@H]1C[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C21H26N2O4
reactant | pyridine | 9.2 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-3-methoxypropenoyl chloride | 1.67 g | CC(C(=O)Cl)=COC | C5H7ClO2
reactant | monopotassium phosphate | P(=O)([O-])(O)O.[K+]
solvent | methylene chloride | 32.2 ml | C(Cl)Cl | CH2Cl2
product | 1-[N-(2-methyl-3-methoxypropenoyl)ureido]-2,5-anhydro-4,6-di-O-benzyl-1,3-dideoxy-D-allitol | 2.3 g | CC(C(=O)N(C(=O)N)C[C@H]1C[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)=COC | C26H32N2O6
